US08791134B2
1-Acetyl-4-nitrosopiperidin-4-yl acetate was prepared from 1-acetyl-piperidin-4-one oxime and lead tetraacetate using conditions of General Method 2. 1H NMR (400 MHz, chloroform-d) δ4.51 (1H, ddd, 9.8, 8.3, 4.4 Hz), 3.87 (1H, ddd, 10.0, 8.7, 5.0 Hz), 3.41 (1H, dd, 11.5, 3.2 Hz), 3.05(1H, dd, 13.4, 7.8 Hz), 2.26 (3H, s), 2.15 (3H, s), 2.10-2.18 (1H, m), 1.94-2.02 (2H, m), 1.81-1.90(1H, m).

reactant | 1-acetyl-piperidin-4-one oxime | C(C)(=O)N1CCC(CC1)=NO | C7H12N2O2
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
product | 1-Acetyl-4-nitrosopiperidin-4-yl acetate | C(C)(=O)OC1(CCN(CC1)C(C)=O)N=O | C9H14N2O4
